US04695312
3-Chloro-2-(4-chloro-5-difluoromethoxy-2-fluorophenyl)-4,5,6,7-tetrahydro-2H-indazole I-2
To a solution of 36 ml of isopropanol, 21 ml of water and 6.0 ml of sodium hydroxide was added 5.28 g of 3-chloro-2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4,5,6,7-tetrahydro-2H-indazole II-2, and the resultant mixture was heated at 50° to 60° C. to give a solution. Excessive chlorodifluoromethane gas was introduced, and each 4.5 g of 50% aqueous sodium hydroxide was added 1.5 and 3 hours after starting the gas inlet and further said gas inlet was continued for additional one hour. After cooling, the reaction mixture was neutralized with 2N hydrochloric acid and extracted with dichloromethane. The organic layer was dried and concentrated. The residue was chromatographed on a column of silica gel, eluting with n-hexane-ethyl acetate (4:1 v/v). The eluate was concentrated to give 5.24 g of the titled compound I-2.

reactant | sodium hydroxide | 6.0 ml | [OH-].[Na+]
reactant | 3-chloro-2-(4-chloro-2-fluoro-5-hydroxyphenyl)-4,5,6,7-tetrahydro-2H-indazole | 5.28 g | ClC=1N(N=C2CCCCC12)C1=C(C=C(C(=C1)O)Cl)F | C13H11Cl2FN2O
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
reactant | sodium hydroxide | 4.5 g | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 21 ml | O | H2O
solvent | isopropanol | 36 ml | C(C)(C)O | C3H8O
product | 3-Chloro-2-(4-chloro-5-difluoromethoxy-2-fluorophenyl)-4,5,6,7-tetrahydro-2H-indazole | 5.24 g | ClC=1N(N=C2CCCCC12)C1=C(C=C(C(=C1)OC(F)F)Cl)F | C14H11Cl2F3N2O
